US08039469B2
Preparation of 1-[4-(4,6-di-3,7-dioxa-9-azabicyclo[3.3.1]non-9-yl-1,3,5-triazin-2-yl)phenyl]-3-[4-(4-methylpiperazin-1-yl)phenyl]urea
To a solution of 4-(4,6-di(3,7-dioxa-9-azabicyclo[3.3.1]nonan-9-yl)-1,3,5-triazin-2-yl)aniline (120 mg, 0.281 mmol) in CH2Cl2 was added Et3N (0.237 mL, 1.69 mmol) and triphosgene (42 mg, 0.14 mmol). The mixture was stirred at room temperature for 15 minutes and 4-(4-methylpiperazin-1-yl)aniline (107 mg, 0.56 mmol) was added. The mixture was stirred at room temperature overnight. The solvent was removed, and the residue was subjected to HPLC separation to give the title compound (1TFA salt) MS (ESI) m/z 644.3306.

reactant | 4-(4,6-di(3,7-dioxa-9-azabicyclo[3.3.1]nonan-9-yl)-1,3,5-triazin-2-yl)aniline | 0.281 mmol, 120 mg | C12COCC(COC1)N2C2=NC(=NC(=N2)N2C1COCC2COC1)C1=CC=C(N)C=C1 | C21H26N6O4
reactant | Et3N | 1.69 mmol, 0.237 mL | CCN(CC)CC | C6H15N
reactant | triphosgene | 0.14 mmol, 42 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(4-methylpiperazin-1-yl)aniline | 0.56 mmol, 107 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[4-(4,6-di-3,7-dioxa-9-azabicyclo[3.3.1]non-9-yl-1,3,5-triazin-2-yl)phenyl]-3-[4-(4-methylpiperazin-1-yl)phenyl]urea | C12COCC(COC1)N2C2=NC(=NC(=N2)N2C1COCC2COC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1CCN(CC1)C | C33H41N9O5
